US07276518B2
N′-[2-(7-Benzyloxy-1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride, nonpolar diastereomer
7-Benzyloxytryptamine (200 mg) was dissolved in dry 1,2-dichloroethane (10 ml) and THF (10 ml) under argon. After addition of 4-dimethylamino-4-phenylcyclohexanone (180 mg) and glacial acetic acid (43 μl), the mixture was stirred for one hour at RT and then sodium triacetoxyborohydride (248 mg) was added thereto. The reaction mixture was stirred for three days at RT. For working up, the mixture was concentrated, the residue was dissolved in water (15 ml), 2M HCl (2 ml) and diethyl ether (20 ml), the organic phase was separated off, and the aqueous phase was washed with diethyl ether (2×15 ml), brought to pH 11 with 1M NaOH and extracted with ethyl acetate (4×10 ml). The combined ethyl acetate extracts were dried and concentrated, and the residue obtained (351 mg) was purified by flash chromatography (45 g silica gel 60, eluant: MeOH/NEt3 (99:1)). The nonpolar diastereomer (188 mg) was dissolved in 2-butanone/acetone (6 ml/6 ml) while warm and converted with chlorotrimethylsilane (147 μl) into the corresponding dihydrochloride (white solid; 176 mg; m.p. 162-166° C.).

reactant | 7-Benzyloxytryptamine | 200 mg | C(C1=CC=CC=C1)OC1=C2NC=C(CCN)C2=CC=C1 | C17H18N2O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 4-dimethylamino-4-phenylcyclohexanone | 180 mg | CN(C1(CCC(CC1)=O)C1=CC=CC=C1)C | C14H19NO
reactant | sodium triacetoxyborohydride | 248 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | acetic acid | 43 μl | C(C)(=O)O | C2H4O2
product | N′-[2-(7-Benzyloxy-1H-indol-3-yl)-ethyl]-N,N-dimethyl-1-phenyl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)OC=1C=CC=C2C(=CNC12)CCNC1CCC(CC1)(N(C)C)C1=CC=CC=C1 | InChI=1S/C31H37N3O.2ClH/c1-34(2)31(26-12-7-4-8-13-26)19-16-27(17-20-31)32-21-18-25-22-33-30-28(25)14-9-15-29(30)35-23-24-10-5-3-6-11-24;;/h3-15,22,27,32-33H,16-21,23H2,1-2H3;2*1H
